US09029391B2
[(1,1-dimethylethyl)oxy](4-(3,4-dimethylphenyl)-2-methyl-7-{[4-(methyloxy)phenyl]methyl}-1-oxo-1,2-dihydro-3-isoquinolinyl)acetic acid
A mixture of methyl [7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate (34.0 mg, 0.070 mmol) and (4-methoxybenzyl)zinc(II) bromide (0.280 mL, 0.140 mmol) in N,N-Dimethylformamide (DMF) (1.2 mL) was degassed with nitrogen for 5 minutes. Pd(PPh3)4 (8.08 mg, 6.99 μmol) was added and the mixture was irradiated in the microwave at 120° C. for 20 minutes. The mixture was diluted with ethyl acetate, washed with water, followed by brine, dried over sodium sulfate, filtered and then concentrated to give a dark residue. The crude residue was treated with 2M lithium hydroxide (0.140 mL, 0.280 mmol) in Tetrahydrofuran (THF) (0.8 mL) and Methanol (0.8 mL) and then stirred at 70° C. for 30 minutes. Additional 2 M lithium hydroxide (0.200 mL, 0.400 mmol) was added and the mixture was stirred at 70° C. for 2 additional hours. The mixture was concentrated and the residue was purified by reverse phase chromatography to afford the title compound as a white solid (11 mg, 31%). 1H NMR (400 MHz, CHLOROFORM-d) δ=8.39-8.30 (m, 1 H), 7.41-7.29 (m, 2 H), 7.29-7.18 (m, 1 H), 7.17-7.09 (m, 2 H), 7.09-6.96 (m, 2 H), 6.81 (dd, J=2.0, 8.6 Hz, 2 H), 5.34 (s, 1 H), 4.04 (s, 2 H), 3.77 (s, 3 H), 3.68 (s, 3 H), 2.35 (m, 3 H), 2.30 (m, 3 H), 1.06 (m, 9 H); LC/MS (m/z) ES+=514 (M+1).

reactant | methyl [7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate | 0.070 mmol, 34.0 mg | BrC1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C(=O)OC)OC(C)(C)C)C1=CC(=C(C=C1)C)C | C25H28BrNO4
reactant | (4-methoxybenzyl)zinc(II) bromide | 0.140 mmol, 0.280 mL | [Br-].COC1=CC=C(C[Zn+])C=C1
reactant | lithium hydroxide | 0.280 mmol, 2M, 0.140 mL | [OH-].[Li+]
reactant | lithium hydroxide | 0.400 mmol, 2 M, 0.200 mL | [OH-].[Li+]
solvent | N,N-Dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Tetrahydrofuran | 0.8 mL | O1CCCC1 | C4H8O
solvent | Methanol | 0.8 mL | CO | CH4O
catalyst | Pd(PPh3)4 | 6.99 μmol, 8.08 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [(1,1-dimethylethyl)oxy](4-(3,4-dimethylphenyl)-2-methyl-7-{[4-(methyloxy)phenyl]methyl}-1-oxo-1,2-dihydro-3-isoquinolinyl)acetic acid | 11 mg, 31% | CC(C)(C)OC(C(=O)O)C=1N(C(C2=CC(=CC=C2C1C1=CC(=C(C=C1)C)C)CC1=CC=C(C=C1)OC)=O)C | C32H35NO5
